US05378716
Methyl 3-(3-bromopropyl)phenoxyacetate
To a stirred solution of methyl 3-(3-hydroxypropyl)phenoxyacetate (2.00 g) in methylene chloride (20 ml) were added successively triphenylphosphine (2.81 g) and tetrabromomethane (3.55 g) at room temperature. The mixture was evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=7:1) to give the title compound (1.69 g) having the following physical data.

reactant | methyl 3-(3-hydroxypropyl)phenoxyacetate | 2.00 g | OCCCC=1C=C(OCC(=O)OC)C=CC1 | C12H16O4
reactant | triphenylphosphine | 2.81 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | 3.55 g | BrC(Br)(Br)Br | CBr4
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-(3-bromopropyl)phenoxyacetate | 1.69 g | BrCCCC=1C=C(OCC(=O)OC)C=CC1 | C12H15BrO3
